US06034239
N-[2-(7,8-dihydro-6H-indeno[4,5-d]oxazol-8-yl)ethyl]acetamide
To a solution of N-[2-(7-amino-6-hydroxyindan-1-yl)ethyl]acetamide (630 mg, 2.7 mmol.) in methanol (5 mL) were added dropwise, under ice-cooling, methyl orthoformate (7.4 mL, 67.3 mmol.) and a saturated HCl/methanol (1.4 mL) solution. The reaction mixture was stirred for 30 minutes at room temperature and for further one hour at 60° C. The reaction mixture was cooled, which was poured into ice-water, followed by extracting the organic matter with chloroform. The extract solution was washed with a saturated aqueous saline solution and water, which was then dried over anhydrous magnesium sulfate, followed by distilling off the solvent. The residue was purified by means of silica gel column chromatography (chloroform:methanol=20:1) to afford the title compound (yield 520 mg, 79%).

reactant | N-[2-(7-amino-6-hydroxyindan-1-yl)ethyl]acetamide | 2.7 mmol, 630 mg | NC=1C(=CC=C2CCC(C12)CCNC(C)=O)O | C13H18N2O2
reactant | methyl orthoformate | 67.3 mmol, 7.4 mL | C(OC)([O-])[O-]
reactant | HCl methanol | 1.4 mL | Cl.CO
solvent | methanol | 5 mL | CO | CH4O
product | N-[2-(7,8-dihydro-6H-indeno[4,5-d]oxazol-8-yl)ethyl]acetamide | yield 520 mg, 79% | N1=COC2=C1C=1C(CCC1C=C2)CCNC(C)=O | C14H16N2O2
